US03947593
3,6-Bis(dimethylaminoacetyl)-N-ethylcarbazole dihydrochloride dihydrate
A mixture of 14.6 g (0.042 mole) of 3,6-bis(chloroacetyl)-N-ethylcarbazole, prepared from N-ethylcarbazole and chloroacetyl chloride, 100 ml of 40% dimethylamine and 7.0 g of potassium iodide in 200 ml of butanone is placed in a Parr bomb and heated at 70°-80°C with stirring for 2 hours. The reaction mixture is cooled and poured into 2.0 l of ice water. The solid which precipitates is filtered off, dissolved in chloroform and dried over magnesium sulfate to give the free base of the desired product which is subsequently converted to the dihydrochloride salt and recrystallized from methanol-acetone to give the desired product.

reactant | 3,6-bis(chloroacetyl)-N-ethylcarbazole | 0.042 mole, 14.6 g | ClCC(=O)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C(CCl)=O)CC | C18H15Cl2NO2
reactant | N-ethylcarbazole | C(C)N1C2=CC=CC=C2C=2C=CC=CC12 | C14H13N
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | dimethylamine | 100 ml | CNC | C2H7N
reactant | potassium iodide | 7.0 g | [I-].[K+]
solvent | butanone | 200 ml | CC(CC)=O | C4H8O
product | 3,6-Bis(dimethylaminoacetyl)-N-ethylcarbazole dihydrochloride dihydrate | O.O.Cl.Cl.CN(C)CC(=O)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C(CN(C)C)=O)CC | InChI=1S/C22H27N3O2.2ClH.2H2O/c1-6-25-19-9-7-15(21(26)13-23(2)3)11-17(19)18-12-16(8-10-20(18)25)22(27)14-24(4)5;;;;/h7-12H,6,13-14H2,1-5H3;2*1H;2*1H2
